US06462198B1
Diphenylacetyl-carbamic acid butyl ester
To a stirred solution of 1-butanol (0.32 ml, 3.49 mmol) in dichloromethane (4 ml) was added a solution of diphenylacetyl isocyanate (2.33 ml, 0.5M in CH2Cl2, 1.16 mmol) and the mixture was stirred at RT for 1 h. Removal of the solvent in vacuum left a yellow oil, which was purified by column chromatography on silica gel (ethyl acetate/hexane 1:2) to give the title compound (0.3 g, 83%) as a light yellow solid, m.p. 82-84° C. and MS: m/e=334 (M+Na+).

reactant | 1-butanol | 3.49 mmol, 0.32 ml | C(CCC)O | C4H10O
reactant | diphenylacetyl isocyanate | 1.16 mmol, 0.5M, 2.33 ml | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | Diphenylacetyl-carbamic acid butyl ester | 0.3 g, 83% | C(CCC)OC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C19H21NO3
